US05494991
35.0 g (0.162 moles) of 3,3'-dihydroxy-4,4'-diaminobiphenyl and 36.0 g (0.356 moles) of triethylamine were dissolved in a mixed solvent of 300 ml of tetrahydrofuran and 300 ml of N,N-dimethylformamide (DMF) and cooled down to 0° C. Thereafter, a solution of 63.1 g (0.340 moles) of p-nitrobenzoyl chloride in 150 ml of tetrahydrofuran was dropped in the solution in such a way that the resultant reaction solution had a temperature not higher than 10° C. Subsequently, the reaction solution was poured into one liter of methanol thereby permitting the resulting reaction product to be precipitated, followed by filtering, washing with tetrahydrofuran, then with water and finally with methanol, and drying to obtain crude red crystals of 4,4'-bis(4-aminobenzamido)-3,3'-dihydroxybiphenyl. The yield was 82.1 g (at a yield of 99.7%). The crude crystals were recrystallized from a mixed solvent of dimethylformamide and methanol to obtain a pure product.

reactant | 3,3'-dihydroxy-4,4'-diaminobiphenyl | 0.162 moles, 35.0 g | OC=1C=C(C=CC1N)C1=CC(=C(C=C1)N)O | C12H12N2O2
reactant | triethylamine | 0.356 moles, 36.0 g | C(C)N(CC)CC | C6H15N
reactant | p-nitrobenzoyl chloride | 0.340 moles, 63.1 g | [N+](=O)([O-])C1=CC=C(C(=O)Cl)C=C1 | C7H4ClNO3
reactant | methanol | one liter | CO | CH4O
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
solvent | N,N-dimethylformamide | 300 ml | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 4,4'-bis(4-aminobenzamido)-3,3'-dihydroxybiphenyl | yield of 99.7% | NC1=CC=C(C(=O)NC2=C(C=C(C=C2)C2=CC(=C(C=C2)NC(C2=CC=C(C=C2)N)=O)O)O)C=C1 | C26H22N4O4
